### PR TITLE
Complete BLAKE3 ApplyRounds circuit with FormalCircuit combinators

### PR DESCRIPTION
**Pull request by pirapira**
## Summary

This PR implements a complete BLAKE3 ApplyRounds circuit using new FormalCircuit combinators, with full soundness and completeness proofs.

### Key Contributions

**FormalCircuit Combinators (`Clean/Circuit/StructuralLemmas.lean`)**:
- `FormalCircuit.concat`: Sequential composition combinator for chaining circuits
- `FormalCircuit.weakenSpec`: Specification adaptation combinator  
- Complete soundness and completeness proofs for both combinators

**BLAKE3 ApplyRounds Circuit (`Clean/Gadgets/BLAKE3/ApplyRounds.lean`)**:
- Modular circuit construction using combinators:
  - `roundWithPermute`: Single round + permutation
  - `twoRoundsWithPermute`, `fourRoundsWithPermute`, `sixRoundsWithPermute`: Multi-round compositions
  - `sevenRoundsApplyStyle`: Complete 7-round BLAKE3 compression
- Full soundness & complete proofs

## Test plan

- `lake build` succeeds
- All proofs complete without sorry

🤖 Generated with [Claude Code](https://claude.ai/code)

### CODE REVIEW

File: Clean/Gadgets/BLAKE3/Round.lean [hunk 1]
```diff
@@ -21,14 +21,14 @@ instance : ProvableStruct Inputs where
...
-  let state ← G.circuit 2 7 8 13 ⟨state, message[12], message[13]⟩
-  let state ← G.circuit 3 4 9 14 ⟨state, message[14], message[15]⟩
+  let state ← subcircuit (G.circuit 0 4 8 12) ⟨state, message[0], message[1]⟩
+  let state ← subcircuit (G.circuit 1 5 9 13) ⟨state, message[2], message[3]⟩
+  let state ← subcircuit (G.circuit 2 6 10 14) ⟨state, message[4], message[5]⟩
+  let state ← subcircuit (G.circuit 3 7 11 15) ⟨state, message[6], message[7]⟩
+  let state ← subcircuit (G.circuit 0 5 10 15) ⟨state, message[8], message[9]⟩
+  let state ← subcircuit (G.circuit 1 6 11 12) ⟨state, message[10], message[11]⟩
+  let state ← subcircuit (G.circuit 2 7 8 13) ⟨state, message[12], message[13]⟩
+  let state ← subcircuit (G.circuit 3 4 9 14) ⟨state, message[14], message[15]⟩
```
Comment (pirapira) [inline Clean/Gadgets/BLAKE3/Round.lean]: we can drop `subcircuit` here. That's more usual.

File: Clean/Gadgets/BLAKE3/ApplyRounds.lean [hunk 2]
```diff
@@ -0,0 +1,1272 @@
...
+      simp only [applySixRounds]
+    · -- Prove: output.Normalized
+      exact h_spec2.2
+  )
+
+/--
+The assumptions for roundWithPermute are exactly Round.Assumptions.
+-/
+lemma roundWithPermute_assumptions_eq (input : Round.Inputs (F p)) :
+  roundWithPermute.Assumptions input = Round.Assumptions input := by
```
Comment (pirapira) [inline Clean/Gadgets/BLAKE3/ApplyRounds.lean]: indent four spaces, so the statement is distinct.

File: Clean/Gadgets/BLAKE3/ApplyRounds.lean [hunk 3]
```diff
@@ -0,0 +1,1272 @@
...
+  simp only [roundWithPermute]
+
+/--
+The assumptions for twoRoundsWithPermute are exactly Round.Assumptions.
+-/
+lemma twoRoundsWithPermute_assumptions_eq (input : Round.Inputs (F p)) :
+  twoRoundsWithPermute.Assumptions input = Round.Assumptions input := by
```
Comment (pirapira) [inline Clean/Gadgets/BLAKE3/ApplyRounds.lean]: indent four spaces, so the statement is distinct.

File: Clean/Gadgets/BLAKE3/ApplyRounds.lean [hunk 4]
```diff
@@ -0,0 +1,1272 @@
...
+  simp only [twoRoundsWithPermute, FormalCircuit.concat]
+  rfl
+
+/--
+The assumptions for twoRoundsApplyStyle are exactly Round.Assumptions.
+-/
+lemma twoRoundsApplyStyle_assumptions_eq (input : Round.Inputs (F p)) :
+  twoRoundsApplyStyle.Assumptions input = Round.Assumptions input := by
```
Comment (pirapira) [inline Clean/Gadgets/BLAKE3/ApplyRounds.lean]: indent four spaces, so the statement is distinct.

File: Clean/Gadgets/BLAKE3/ApplyRounds.lean [hunk 5]
```diff
@@ -0,0 +1,1272 @@
...
+  simp only [twoRoundsApplyStyle, FormalCircuit.weakenSpec]
+  rw [twoRoundsWithPermute_assumptions_eq]
+
+/--
+The assumptions for fourRoundsWithPermute are exactly Round.Assumptions.
+-/
+lemma fourRoundsWithPermute_assumptions_eq (input : Round.Inputs (F p)) :
+  fourRoundsWithPermute.Assumptions input = Round.Assumptions input := by
```
Comment (pirapira) [inline Clean/Gadgets/BLAKE3/ApplyRounds.lean]: indent four spaces, so the statement is distinct.

File: Clean/Gadgets/BLAKE3/ApplyRounds.lean [hunk 6]
```diff
@@ -0,0 +1,1272 @@
...
+  simp only [fourRoundsWithPermute, FormalCircuit.concat]
+  rw [twoRoundsWithPermute_assumptions_eq]
+
+/--
+The assumptions for fourRoundsApplyStyle are exactly Round.Assumptions.
+-/
+lemma fourRoundsApplyStyle_assumptions_eq (input : Round.Inputs (F p)) :
+  fourRoundsApplyStyle.Assumptions input = Round.Assumptions input := by
```
Comment (pirapira) [inline Clean/Gadgets/BLAKE3/ApplyRounds.lean]: indent four spaces, so the statement is distinct.

File: Clean/Gadgets/BLAKE3/ApplyRounds.lean [hunk 7]
```diff
@@ -0,0 +1,1272 @@
...
+  simp only [fourRoundsApplyStyle, FormalCircuit.weakenSpec]
+  rw [fourRoundsWithPermute_assumptions_eq]
+
+/--
+The assumptions for sixRoundsWithPermute are exactly Round.Assumptions.
+-/
+lemma sixRoundsWithPermute_assumptions_eq (input : Round.Inputs (F p)) :
+  sixRoundsWithPermute.Assumptions input = Round.Assumptions input := by
```
Comment (pirapira) [inline Clean/Gadgets/BLAKE3/ApplyRounds.lean]: indent four spaces, so the statement is distinct.

File: Clean/Gadgets/BLAKE3/ApplyRounds.lean [hunk 8]
```diff
@@ -0,0 +1,1272 @@
...
+  simp only [sixRoundsWithPermute, FormalCircuit.concat]
+  rw [fourRoundsWithPermute_assumptions_eq]
+
+/--
+The assumptions for sixRoundsApplyStyle are exactly Round.Assumptions.
+-/
+lemma sixRoundsApplyStyle_assumptions_eq (input : Round.Inputs (F p)) :
+  sixRoundsApplyStyle.Assumptions input = Round.Assumptions input := by
```
Comment (pirapira) [inline Clean/Gadgets/BLAKE3/ApplyRounds.lean]: indent four spaces.

File: Clean/Gadgets/BLAKE3/ApplyRounds.lean [hunk 9]
```diff
@@ -0,0 +1,1272 @@
...
+  simp only [sixRoundsApplyStyle, FormalCircuit.weakenSpec]
+  rw [sixRoundsWithPermute_assumptions_eq]
+
+/--
+The assumptions for sevenRoundsFinal are exactly Round.Assumptions.
+-/
+lemma sevenRoundsFinal_assumptions_eq (input : Round.Inputs (F p)) :
+  sevenRoundsFinal.Assumptions input = Round.Assumptions input := by
```
Comment (pirapira) [inline Clean/Gadgets/BLAKE3/ApplyRounds.lean]: indent four spaces.

File: Clean/Gadgets/BLAKE3/ApplyRounds.lean [hunk 10]
```diff
@@ -0,0 +1,1272 @@
...
+  simp only [sevenRoundsFinal, FormalCircuit.concat]
+  rw [sixRoundsApplyStyle_assumptions_eq]
+
+/--
+The assumptions for sevenRoundsApplyStyle are exactly Round.Assumptions.
+This means the input state and message must be normalized.
+-/
+lemma sevenRoundsApplyStyle_assumptions_eq (input : Round.Inputs (F p)) :
+  sevenRoundsApplyStyle.Assumptions input = Round.Assumptions input := by
```
Comment (pirapira) [inline Clean/Gadgets/BLAKE3/ApplyRounds.lean]: indent four spaces.

File: Clean/Gadgets/BLAKE3/ApplyRounds.lean [hunk 11]
```diff
@@ -0,0 +1,1272 @@
...
+  simp only [sevenRoundsApplyStyle, FormalCircuit.weakenSpec]
+  rw [sevenRoundsFinal_assumptions_eq]
+
+/--
+The concrete assumptions for sevenRoundsApplyStyle: both state and message must be normalized.
+-/
+lemma sevenRoundsApplyStyle_assumptions_concrete (input : Round.Inputs (F p)) :
+  sevenRoundsApplyStyle.Assumptions input ↔
+  (input.state.Normalized ∧ ∀ i : Fin 16, input.message[i].Normalized) := by
```
Comment (pirapira) [inline Clean/Gadgets/BLAKE3/ApplyRounds.lean]: indent four spaces.

File: Clean/Circuit/StructuralLemmas.lean [hunk 12]
```diff
@@ -0,0 +1,251 @@
...
+
+This combinator requires:
+- A compatibility proof that the first circuit's spec implies the second circuit's assumptions
+- A proof that circuit1's output is independent of the offset (h_output_stable)
+
+The composite circuit:
+- Has the assumptions of the first circuit
+- Has a spec stating that there exists an intermediate value such that both component specs hold
+
+Note: The completeness proof is left as sorry due to complexity of witness generation.
```
Comment (pirapira) [inline Clean/Circuit/StructuralLemmas.lean]: No need for this comment anymore.

File: Clean/Gadgets/BLAKE3/Round.lean [hunk 13]
```diff
@@ -39,6 +39,7 @@ instance elaborated : ElaboratedCircuit (F p) Inputs BLAKE3State where
   localLength_eq input i0 := by
     simp only [main, circuit_norm, G.circuit, subcircuit_norm, G.elaborated]
 
+
```
Comment (pirapira) [inline Clean/Gadgets/BLAKE3/Round.lean]: Additional line is not needed.

File: Clean/Gadgets/BLAKE3/Round.lean [hunk 14]
```diff
@@ -140,6 +141,7 @@ theorem completeness : Completeness (F p) elaborated Assumptions := by
 
   simp only [h_normalized, getElem_eval_vector, h_input.right, and_self]
 
+
```
Comment (pirapira) [inline Clean/Gadgets/BLAKE3/Round.lean]: Additional line is not needed.

File: Clean/Gadgets/BLAKE3/ApplyRounds.lean [hunk 15]
```diff
@@ -0,0 +1,1272 @@
...
+      exact h_spec2.2
+  )
+
+/--
+The assumptions for roundWithPermute are exactly Round.Assumptions.
+-/
+lemma roundWithPermute_assumptions_eq (input : Round.Inputs (F p)) :
+    roundWithPermute.Assumptions input = Round.Assumptions input := by
+  simp only [roundWithPermute]
+
```
Comment (pirapira) [inline Clean/Gadgets/BLAKE3/ApplyRounds.lean]: Maybe these lemmas are not needed if we put `concat.Assumptions` in the circuit_norm?

File: Clean/Gadgets/BLAKE3/ApplyRounds.lean [hunk 16]
```diff
@@ -0,0 +1,1272 @@
...
+  have h_state_normalized : (eval env state_vec).Normalized := by
+    simp only [BLAKE3State.Normalized, state_vec, eval_vector]
+    intro i
+    fin_cases i
+    -- First 8 elements are from chaining_value
+    case «0» => (
+      simp only [Vector.getElem_mk]; rw [Vector.getElem_map, getElem_eval_vector]
+      simp only [eval_vector]
+      simp only [Vector.map_mk, List.map_toArray, List.map_cons, List.map_nil, Vector.getElem_mk,
+        List.getElem_toArray, List.getElem_cons_zero, state_vec, state_vec_0_Normalized]
```
Comment (pirapira) [inline Clean/Gadgets/BLAKE3/ApplyRounds.lean]: This is repeated many times. We can define a lemma or at least a macro for the tactic sequence.

File: Clean/Gadgets/BLAKE3/ApplyRounds.lean [hunk 17]
```diff
@@ -0,0 +1,1272 @@
...
+  have h_chaining_3_eq : (eval env chaining_value_var[3]).value = chaining_value[3].value := by
+    rw [getElem_eval_vector, h_eval_chaining_block_value]
+  have h_chaining_4_eq : (eval env chaining_value_var[4]).value = chaining_value[4].value := by
+    rw [getElem_eval_vector, h_eval_chaining_block_value]
+  have h_chaining_5_eq : (eval env chaining_value_var[5]).value = chaining_value[5].value := by
+    rw [getElem_eval_vector, h_eval_chaining_block_value]
+  have h_chaining_6_eq : (eval env chaining_value_var[6]).value = chaining_value[6].value := by
+    rw [getElem_eval_vector, h_eval_chaining_block_value]
+  have h_chaining_7_eq : (eval env chaining_value_var[7]).value = chaining_value[7].value := by
+    rw [getElem_eval_vector, h_eval_chaining_block_value]
```
Comment (pirapira) [inline Clean/Gadgets/BLAKE3/ApplyRounds.lean]: Maybe it's worthwhile proving this for [i] in Fin 8 or something similar.

File: Clean/Gadgets/BLAKE3/ApplyRounds.lean [hunk 18]
```diff
@@ -0,0 +1,1272 @@
...
+    · -- Prove: output.message.map U32.value = final_message after 4 rounds
+      rw [← blake3_value_eq_map_value output.message]
+      rw [h_spec2_2.2.2.1, h_spec2_1.2.2.1, h_spec1_2.2.2.1, h_spec1_1.2.2.1]
+      rw [blake3_value_eq_map_value input.message]
+    constructor
+    · -- Prove: output.state.Normalized
+      exact h_spec2_2.2.1
+    · -- Prove: ∀ i : Fin 16, output.message[i].Normalized
+      exact h_spec2_2.2.2.2
+  )
```
Comment (pirapira) [inline Clean/Gadgets/BLAKE3/ApplyRounds.lean]: This proof is repeated. Maybe we can make a lemma out of it.

File: Clean/Gadgets/BLAKE3/ApplyRounds.lean (hunk 16 above)
Comment (pirapira) [reply Clean/Gadgets/BLAKE3/ApplyRounds.lean]: This is better now.

File: Clean/Gadgets/BLAKE3/ApplyRounds.lean (hunk 17 above)
Comment (pirapira) [reply Clean/Gadgets/BLAKE3/ApplyRounds.lean]: This is better now.

File: Clean/Gadgets/BLAKE3/ApplyRounds.lean (hunk 15 above)
Comment (pirapira) [reply Clean/Gadgets/BLAKE3/ApplyRounds.lean]: done another way

File: Clean/Gadgets/BLAKE3/Round.lean (hunk 13 above)
Comment (pirapira) [reply Clean/Gadgets/BLAKE3/Round.lean]: removed.

File: Clean/Gadgets/BLAKE3/Round.lean (hunk 14 above)
Comment (pirapira) [reply Clean/Gadgets/BLAKE3/Round.lean]: removed.

File: Clean/Gadgets/BLAKE3/ApplyRounds.lean (hunk 16 above)
Comment (pirapira) [reply Clean/Gadgets/BLAKE3/ApplyRounds.lean]: improved

File: Clean/Gadgets/BLAKE3/ApplyRounds.lean (hunk 17 above)
Comment (pirapira) [reply Clean/Gadgets/BLAKE3/ApplyRounds.lean]: improved.

File: Clean/Gadgets/BLAKE3/ApplyRounds.lean (hunk 18 above)
Comment (pirapira) [reply Clean/Gadgets/BLAKE3/ApplyRounds.lean]: But each of them proves something slightly different.

File: Clean/Circuit/StructuralLemmas.lean [hunk 19]
```diff
@@ -0,0 +1,255 @@
...
+
+This is useful for circuits that naturally decompose into two sequential stages.
+-/
+theorem soundness_compose_circuits
+    (elaborated : ElaboratedCircuit F Input Output)
+    (Assumptions : Input F → Prop)
+    (Spec : Input F → Output F → Prop)
+    (circuit1 : FormalCircuit F Input Mid)
+    (circuit2 : FormalCircuit F Mid Output)
+    (h_main_eq : ∀ input, elaborated.main input = circuit1 input >>= circuit2)
```
Comment (pirapira) [inline Clean/Circuit/StructuralLemmas.lean]: Consider dropping `elaborated` and `h_main_eq` and stating the rest of the lemma about the `>>=` term.

File: Clean/Circuit/StructuralLemmas.lean [hunk 20]
```diff
@@ -0,0 +1,255 @@
...
+  have h_circuit2_spec : circuit2.Spec mid (eval env (circuit2.output mid_var (offset + circuit1_len))) := by
+    exact h_holds_circuit2 h_circuit2_assumptions
+
+  -- Use the output equation
+  rw [h_output_eq]
+
+  -- Apply the spec composition
+  apply h_spec_composition input mid _ h_assumptions h_circuit1_spec h_circuit2_spec
+
+
```
Comment (pirapira) [inline Clean/Circuit/StructuralLemmas.lean]: zero or one blank line suffices.

File: Clean/Circuit/StructuralLemmas.lean [hunk 21]
```diff
@@ -0,0 +1,255 @@
...
+    · intro input mid h_assumptions h_spec1
+      exact h_compat input mid h_assumptions h_spec1
+    · intro input mid output h_input h_spec1 h_spec2
+      exact ⟨mid, h_spec1, h_spec2⟩
+  completeness := by
+    simp only [circuit_norm]
+    rintro offset env input_var ⟨ use1, use2 ⟩ input h_input asm1
+    constructor
+    · simp only [subcircuit_norm, h_input, asm1]
+    · simp only [subcircuit_norm]
```
Comment (pirapira) [inline Clean/Circuit/StructuralLemmas.lean]: Both branches are simplifying `subcircuit_norm`. This can be done before `constructor` call.

File: Clean/Circuit/StructuralLemmas.lean [hunk 22]
```diff
@@ -0,0 +1,255 @@
...
+      apply h_compat
+      · apply asm1
+      · simp only [subcircuit_norm] at use1
+        simp only [h_input] at use1
```
Comment (pirapira) [inline Clean/Circuit/StructuralLemmas.lean]: Maybe these two lines can be combined.

File: Clean/Circuit/StructuralLemmas.lean [hunk 23]
```diff
@@ -0,0 +1,255 @@
...
+    intro offset env input_var input h_eval h_assumptions h_holds
+    -- Use the original circuit's soundness
+    have h_strong_spec := circuit.soundness offset env input_var input h_eval h_assumptions h_holds
+    -- Apply the implication to get the weaker spec
+    exact h_spec_implication input _ h_assumptions h_strong_spec
+  completeness := by
+    -- Completeness is preserved since we use the same elaborated circuit
+    -- and the same assumptions
+    exact circuit.completeness
+}
```
Comment (pirapira) [inline Clean/Circuit/StructuralLemmas.lean:95]: Add a lemma called weakenSpec_Assumptions (similar to concat_Assumptions) and put that in the circuit_norm set.

File: Clean/Circuit/StructuralLemmas.lean [hunk 24]
```diff
@@ -0,0 +1,255 @@
...
+      apply h_compat
+      · apply asm1
+      · simp only [subcircuit_norm] at use1
+        simp only [h_input] at use1
+        apply use1
+        assumption
+}
+
+@[circuit_norm]
+lemma concat_Assumptions {F Input Mid Output} [Field F] [ProvableType Input] [ProvableType Mid] [ProvableType Output]
```
Comment (pirapira) [inline Clean/Circuit/StructuralLemmas.lean]: Should be called `FormalCircuit.concat_Assumptions`.

File: Clean/Gadgets/BLAKE3/ApplyRounds.lean [hunk 25]
```diff
@@ -0,0 +1,1068 @@
...
+      -- Show BLAKE3State.value input.message = Vector.map U32.value input.message
+      rfl
+    constructor
+    · -- Prove: output.message.map U32.value = permute (permute (input.message.map U32.value))
+      -- We have h_spec2.2.2.1: BLAKE3State.value output.message = permute (BLAKE3State.value mid.message)
+      -- We have h_spec1.2.2.1: BLAKE3State.value mid.message = permute (BLAKE3State.value input.message)
+      -- Use our lemma to convert between the notations
+      rw [← blake3_value_eq_map_value output.message]
+      rw [h_spec2.2.2.1, h_spec1.2.2.1]
+      rw [blake3_value_eq_map_value input.message]
```
Comment (pirapira) [inline Clean/Gadgets/BLAKE3/ApplyRounds.lean]: can we initially `simp_all [blake3_value_eq_map_value]` and forget about the adjustments?

File: Clean/Gadgets/BLAKE3/ApplyRounds.lean [hunk 26]
```diff
@@ -0,0 +1,1068 @@
...
+  )
+
+/--
+Combines four rounds with permutation using two twoRoundsWithPermute operations.
+This performs four rounds with message permutation between them.
+-/
+def fourRoundsWithPermute : FormalCircuit (F p) Round.Inputs Round.Inputs :=
+  twoRoundsWithPermute.concat twoRoundsWithPermute (by
+    -- Prove compatibility: if first twoRoundsWithPermute assumptions and spec hold,
+    -- then second twoRoundsWithPermute assumptions hold
```
Comment (pirapira) [inline Clean/Gadgets/BLAKE3/ApplyRounds.lean:223]: This can be made a lemma.

File: Clean/Gadgets/BLAKE3/ApplyRounds.lean [hunk 27]
```diff
@@ -0,0 +1,1068 @@
...
+    · -- Prove: output.value = final_state after 7 rounds
+      rw [h_spec2.1, h_spec1.1]
+      simp only [applySixRounds]
+      congr 1
+      rw [h_spec1.2.1]
+      simp only [applySixRounds]
+    · -- Prove: output.Normalized
+      exact h_spec2.2
+  )
+
```
Comment (pirapira) [inline Clean/Gadgets/BLAKE3/ApplyRounds.lean:408]: The main constructions like `Inputs` `main` etc should appear at the end of the file after all the auxiliary things.

File: Clean/Gadgets/BLAKE3/ApplyRounds.lean [hunk 28]
```diff
@@ -0,0 +1,1068 @@
...
+    exact h_normalized.1 4
+  have state_vec_5_Normalized : (eval env chaining_value_var[5]).Normalized := by
+    rw [getElem_eval_vector, h_eval_chaining_block_value]
+    exact h_normalized.1 5
+  have state_vec_6_Normalized : (eval env chaining_value_var[6]).Normalized := by
+    rw [getElem_eval_vector, h_eval_chaining_block_value]
+    exact h_normalized.1 6
+  have state_vec_7_Normalized : (eval env chaining_value_var[7]).Normalized := by
+    rw [getElem_eval_vector, h_eval_chaining_block_value]
+    exact h_normalized.1 7
```
Comment (pirapira) [inline Clean/Gadgets/BLAKE3/ApplyRounds.lean]: These can be generalized into one statement.

File: Clean/Circuit/StructuralLemmas.lean (hunk 22 above)
Comment (pirapira) [reply Clean/Circuit/StructuralLemmas.lean]: done

File: Clean/Circuit/StructuralLemmas.lean (hunk 24 above)
Comment (pirapira) [reply Clean/Circuit/StructuralLemmas.lean]: done

File: Clean/Gadgets/BLAKE3/ApplyRounds.lean (hunk 26 above)
Comment (pirapira) [reply Clean/Gadgets/BLAKE3/ApplyRounds.lean:223]: Probably not worth stating.

File: Clean/Gadgets/BLAKE3/ApplyRounds.lean (hunk 27 above)
Comment (pirapira) [reply Clean/Gadgets/BLAKE3/ApplyRounds.lean:408]: Done.

File: Clean/Gadgets/BLAKE3/ApplyRounds.lean (hunk 18 above)
Comment (pirapira) [reply Clean/Gadgets/BLAKE3/ApplyRounds.lean]: These proofs got much shorter.

File: Clean/Circuit/StructuralLemmas.lean (hunk 20 above)
Comment (pirapira) [reply Clean/Circuit/StructuralLemmas.lean]: done

File: Clean/Circuit/StructuralLemmas.lean (hunk 21 above)
Comment (pirapira) [reply Clean/Circuit/StructuralLemmas.lean]: done.

File: Clean/Gadgets/BLAKE3/ApplyRounds.lean (hunk 25 above)
Comment (pirapira) [reply Clean/Gadgets/BLAKE3/ApplyRounds.lean]: These disappeared.

File: Clean/Circuit/StructuralLemmas.lean (hunk 23 above)
Comment (pirapira) [reply Clean/Circuit/StructuralLemmas.lean:95]: done.

File: Clean/Gadgets/BLAKE3/ApplyRounds.lean (hunk 28 above)
Comment (pirapira) [reply Clean/Gadgets/BLAKE3/ApplyRounds.lean]: done.

File: Clean/Circuit/StructuralLemmas.lean (hunk 19 above)
Comment (pirapira) [reply Clean/Circuit/StructuralLemmas.lean]: This has been done.

Comment (pirapira) [reply Clean/Circuit/StructuralLemmas.lean]: Perhaps it's not a good idea.

File: Clean/Gadgets/BLAKE3/ApplyRounds.lean [hunk 29]
```diff
@@ -0,0 +1,930 @@
...
+      ])
+      block_words := by
+  -- applyRounds constructs the same initial state and then applies 7 rounds
+  simp only [applyRounds, applySevenRounds]
+
+/--
+Lemma showing that evaluating U32.decomposeNatExpr of iv[0] gives iv[0].
+-/
+lemma eval_decomposeNatExpr_iv_0 (env : Environment (F p)) :
+    (eval env (U32.decomposeNatExpr iv[0])).value = iv[0] := by
```
Comment (mitschabaude) [inline Clean/Gadgets/BLAKE3/ApplyRounds.lean]: it would be nicer to show that the `iv` elements are all `UInt32`s (you could just change their types to `UInt32`), and then use a general lemma which establishes that `decompose` + `value` yields the original?

we already have this lemma: `U32.value_fromUInt32`

Comment (pirapira) [reply Clean/Gadgets/BLAKE3/ApplyRounds.lean]: I'll investigate.

File: Clean/Circuit/StructuralLemmas.lean (hunk 24 above)
Comment (mitschabaude) [reply Clean/Circuit/StructuralLemmas.lean]: actually it should be called `FormalCircuit.concat_assumptions` (uppercase words become lowercase when part of a snake case name)

File: Clean/Gadgets/BLAKE3/ApplyRounds.lean (hunk 29 above)
Comment (pirapira) [reply Clean/Gadgets/BLAKE3/ApplyRounds.lean]: Done. Also refactored the proof of `U32.value_fromUInt32` using the new lemma.

Comment (mitschabaude) [reply Clean/Gadgets/BLAKE3/ApplyRounds.lean]: it seems that you still have 4 separate lemmas, where need to prove that each `iv` value is smaller than `2^32` individually. if you'd change their type to `UInt32` then I think that wouldn't be necessary and you could make these rewrites without a dedicated lemma per specific value

Comment (pirapira) [reply Clean/Gadgets/BLAKE3/ApplyRounds.lean]: That worked.

Comment (pirapira) [reply Clean/Gadgets/BLAKE3/ApplyRounds.lean]: Maybe `const (U32.fromUInt32 iv[0])` is less complicated than `U32.decomposeNatExpr iv[1].toNat`

Comment (pirapira) [reply Clean/Gadgets/BLAKE3/ApplyRounds.lean]: That's also done.

File: Clean/Circuit/StructuralLemmas.lean [hunk 30]
```diff
@@ -0,0 +1,146 @@
...
+  Spec := fun input output => ∃ mid, circuit1.Spec input mid ∧ circuit2.Spec mid output
+  soundness := by
+    apply Circuit.soundness_compose_circuits (Mid := Mid) <;> aesop
+  completeness := by
+    simp only [circuit_norm]
+    aesop
+}
+
+@[circuit_norm]
+lemma FormalCircuit.assumptions {F Input Mid Output} [Field F] [ProvableType Input] [ProvableType Mid] [ProvableType Output]
```
Comment (mitschabaude) [inline Clean/Circuit/StructuralLemmas.lean]: should be called `concat_assumptions`

File: Clean/Circuit/StructuralLemmas.lean [hunk 31]
```diff
@@ -0,0 +1,146 @@
...
+      Assumptions input → circuit1.Assumptions input)
+    (h_mid_assumptions : ∀ input mid,
+      Assumptions input →
+      circuit1.Spec input mid →
+      circuit2.Assumptions mid)
+    (h_spec_composition : ∀ input mid output,
+      Assumptions input →
+      circuit1.Spec input mid →
+      circuit2.Spec mid output →
+      Spec input output) :
```
Comment (mitschabaude) [inline Clean/Circuit/StructuralLemmas.lean]: the statement of this seems weird to me, since ultimately, you only use it once, with `Assumptions := circuit1.Assumptions` and `Spec := ∃ mid, circuit1.Spec input mid ∧ circuit2.Spec mid output` and `elaborated := <some specific value>` etc, and here they are all left as arguments

might be cleaner to just inline this proof in `FormalCircuit.concat.soundness`?

File: Clean/Circuit/StructuralLemmas.lean [hunk 32]
```diff
@@ -0,0 +1,146 @@
...
+def FormalCircuit.concat
+    {F : Type} [Field F]
+    {Input Mid Output : TypeMap} [ProvableType Input] [ProvableType Mid] [ProvableType Output]
+    (circuit1 : FormalCircuit F Input Mid)
+    (circuit2 : FormalCircuit F Mid Output)
+    (h_compat : ∀ input mid, circuit1.Assumptions input → circuit1.Spec input mid → circuit2.Assumptions mid)
+    (h_localLength_stable : ∀ mid mid', circuit2.localLength mid = circuit2.localLength mid') :
+    FormalCircuit F Input Output := {
+  elaborated := {
+    main := fun input => circuit1 input >>= circuit2
```
Comment (mitschabaude) [inline Clean/Circuit/StructuralLemmas.lean]: can you stick with the idiomatic way of defining structures,
```suggestion
    FormalCircuit F Input Output where
  main input := circuit1 input >>= circuit2
```
etc?

File: Clean/Circuit/StructuralLemmas.lean [hunk 33]
```diff
@@ -0,0 +1,146 @@
...
+
+This combinator requires:
+- A compatibility proof that the first circuit's spec implies the second circuit's assumptions
+- A proof that circuit1's output is independent of the offset (h_output_stable)
+
+The composite circuit:
+- Has the assumptions of the first circuit
+- Has a spec stating that there exists an intermediate value such that both component specs hold
+-/
+def FormalCircuit.concat
```
Comment (mitschabaude) [inline Clean/Circuit/StructuralLemmas.lean:16]: maybe it should be called `.bind`? not sure

File: Clean/Circuit/StructuralLemmas.lean [hunk 34]
```diff
@@ -0,0 +1,146 @@
...
+Weaken the specification of a FormalCircuit.
+
+This combinator takes a FormalCircuit with a strong specification and produces
+a new FormalCircuit with a weaker specification. This is useful when:
+- You have a circuit that proves more than you need
+- You want to compose circuits where the specs don't match exactly
+- You need to adapt a specific circuit to a more general interface
+
+The requirements are:
+- The assumptions remain the same or can be strengthened
```
Comment (mitschabaude) [inline Clean/Circuit/StructuralLemmas.lean]: actually, here the assumptions can't be strengthened

File: Clean/Gadgets/BLAKE3/ApplyRounds.lean [hunk 35]
```diff
@@ -0,0 +1,864 @@
...
+    -- decomposeNatExpr produces a U32 of Expression.const values
+    simp only [U32.decomposeNatExpr, U32.decomposeNat, eval, toVars, fromElements, toElements]
+    simp only [Vector.map, Vector.getElem_mk, Expression.eval, U32.Normalized]
+    -- Prove each limb is normalized
+    have h (x : ℕ) : ZMod.val (n:=p) (x % 256 : ℕ) < 256 := by
+      have : x % 256 < 256 := Nat.mod_lt _ (by norm_num)
+      rw [FieldUtils.val_lt_p]
+      assumption
+      linarith [p_large_enough.elim]
+    exact ⟨h _, h _, h _, h _⟩
```
Comment (mitschabaude) [inline Clean/Gadgets/BLAKE3/ApplyRounds.lean]: I feel like all of these proofs should just be 
```lean
rw [ProvableType.eval_const]
apply U32.fromUInt32_normalized
```

File: Clean/Gadgets/BLAKE3/ApplyRounds.lean [hunk 36]
```diff
@@ -0,0 +1,864 @@
...
+
+-- Tactic for common steps in state vector normalization proof
+syntax "state_vec_norm_simp" : tactic
+macro_rules
+  | `(tactic| state_vec_norm_simp) => `(tactic|
+      simp only [Vector.getElem_mk];
+      rw [Vector.getElem_map, getElem_eval_vector];
+      simp only [eval_vector];
+      simp only [Vector.map_mk, List.map_toArray, List.map_cons, List.map_nil, Vector.getElem_mk,
+        List.getElem_toArray, List.getElem_cons_succ, List.getElem_cons_zero])
```
Comment (mitschabaude) [inline Clean/Gadgets/BLAKE3/ApplyRounds.lean]: is there a reason not to do this in a single `simp` call?

File: Clean/Gadgets/BLAKE3/ApplyRounds.lean [hunk 37]
```diff
@@ -0,0 +1,864 @@
...
+
+  -- First create a proper state vector variable
+  let state_vec : Var BLAKE3State (F p) := #v[
+    chaining_value_var[0], chaining_value_var[1], chaining_value_var[2], chaining_value_var[3],
+    chaining_value_var[4], chaining_value_var[5], chaining_value_var[6], chaining_value_var[7],
+    U32.decomposeNatExpr iv[0].toNat, U32.decomposeNatExpr iv[1].toNat, U32.decomposeNatExpr iv[2].toNat,
+    U32.decomposeNatExpr iv[3].toNat, counter_low_var, counter_high_var, block_len_var, flags_var
+  ]
+  -- Helper to prove normalization of chaining value elements
+  have h_chaining_value_normalized : ∀ (i : Fin 8), (eval env chaining_value_var[i]).Normalized := by
```
Comment (mitschabaude) [inline Clean/Gadgets/BLAKE3/ApplyRounds.lean]: in my experience, if this is reformulated as `∀ (i : ℕ) (_ : i < 8), ...`, then `simp` can apply it to some `i` inside bigger statements

File: Clean/Gadgets/BLAKE3/ApplyRounds.lean [hunk 38]
```diff
@@ -0,0 +1,864 @@
...
+  -- Show the state is normalized
+  have h_state_normalized : (eval env state_vec).Normalized := by
+    simp only [BLAKE3State.Normalized, state_vec, eval_vector]
+    intro i
+    fin_cases i
+    -- First 8 elements are from chaining_value
+    case «0» => state_vec_norm_simp; exact h_chaining_value_normalized 0
+    case «1» => state_vec_norm_simp; exact h_chaining_value_normalized 1
+    case «2» => state_vec_norm_simp; exact h_chaining_value_normalized 2
+    case «3» => state_vec_norm_simp; exact h_chaining_value_normalized 3
```
Comment (mitschabaude) [inline Clean/Gadgets/BLAKE3/ApplyRounds.lean]: instead of handling 16 `fin_cases`, might be cleaner to do a `by_cases hi : i < 8` and prove for general `i` in the two different cases. just a note, not saying you should refactor it now

File: Clean/Gadgets/BLAKE3/ApplyRounds.lean [hunk 39]
```diff
@@ -0,0 +1,864 @@
...
+lemma eval_decomposeNatExpr_small (env : Environment (F p)) (x : ℕ) :
+    x < 256^4 ->
+    (eval env (U32.decomposeNatExpr x)).value = x := by
+  intro _
+  simp only [U32.decomposeNatExpr]
+  apply U32.value_of_decomposedNat_of_small
+  assumption
+
+lemma eval_fromUInt32_value (env : Environment (F p)) (x : UInt32) :
+    (eval env (const (U32.fromUInt32 x))).value = x.toNat := by
```
Comment (mitschabaude) [inline Clean/Gadgets/BLAKE3/ApplyRounds.lean]: this lemma seems like a combination of two (unrelated) existing theorems:
* `eval_const` which says that `eval env (const x) = x`
* `U32.value_fromUInt32`

File: Clean/Gadgets/BLAKE3/ApplyRounds.lean [hunk 40]
```diff
@@ -0,0 +1,864 @@
...
+A FormalCircuit that performs one round followed by permuting the message.
+Both input and output are Round.Inputs (state and message).
+
+The spec follows the pattern from the applyRounds function:
+- Apply round to get new state
+- Permute the message
+-/
+def roundWithPermute : FormalCircuit (F p) Round.Inputs Round.Inputs := {
+  elaborated := {
+    main := fun input => do
```
Comment (mitschabaude) [inline Clean/Gadgets/BLAKE3/ApplyRounds.lean]: use `where` and no separate object for `elaborated`

File: Clean/Circuit/StructuralLemmas.lean (hunk 31 above)
Comment (pirapira) [reply Clean/Circuit/StructuralLemmas.lean]: That's true and I don't see any other usage of this ~theorem~ proposition.

I will try inline.

File: Clean/Circuit/StructuralLemmas.lean (hunk 32 above)
Comment (pirapira) [reply Clean/Circuit/StructuralLemmas.lean]: Forgotten about it.

File: Clean/Circuit/StructuralLemmas.lean (hunk 33 above)
Comment (pirapira) [reply Clean/Circuit/StructuralLemmas.lean:16]: I don't think we'll be using the `do` notation for this. On the surface there's nothing like `A -> M B` (unless M = id).

File: Clean/Gadgets/BLAKE3/ApplyRounds.lean (hunk 35 above)
Comment (pirapira) [reply Clean/Gadgets/BLAKE3/ApplyRounds.lean]: yes

File: Clean/Gadgets/BLAKE3/ApplyRounds.lean (hunk 36 above)
Comment (pirapira) [reply Clean/Gadgets/BLAKE3/ApplyRounds.lean]: nothing, I'll change it.

File: Clean/Gadgets/BLAKE3/ApplyRounds.lean (hunk 37 above)
Comment (pirapira) [reply Clean/Gadgets/BLAKE3/ApplyRounds.lean]: I saw this somewhere else, too. I'll try.

File: Clean/Gadgets/BLAKE3/ApplyRounds.lean (hunk 38 above)
Comment (pirapira) [reply Clean/Gadgets/BLAKE3/ApplyRounds.lean]: It's a good moment to try. I'm not going to spend an hour now.

File: Clean/Gadgets/BLAKE3/ApplyRounds.lean (hunk 39 above)
Comment (pirapira) [reply Clean/Gadgets/BLAKE3/ApplyRounds.lean]: That might just work out. I'll try.

File: Clean/Gadgets/BLAKE3/ApplyRounds.lean (hunk 40 above)
Comment (pirapira) [reply Clean/Gadgets/BLAKE3/ApplyRounds.lean]: I'll figure out how `where` works here.

File: Clean/Gadgets/BLAKE3/ApplyRounds.lean (hunk 35 above)
Comment (pirapira) [reply Clean/Gadgets/BLAKE3/ApplyRounds.lean]: actually, for these inputs no `fromUInt32` is involved. This sequence is rather unfortunate, so I'm working on it.

File: Clean/Gadgets/BLAKE3/ApplyRounds.lean (hunk 29 above)
Comment (pirapira) [reply Clean/Gadgets/BLAKE3/ApplyRounds.lean]: `U32.decomposeNatExpr` disappeared.

File: Clean/Gadgets/BLAKE3/ApplyRounds.lean (hunk 36 above)
Comment (pirapira) [reply Clean/Gadgets/BLAKE3/ApplyRounds.lean]: The proof breaks when I change it. I'll postpone this.

File: Clean/Gadgets/BLAKE3/ApplyRounds.lean (hunk 35 above)
Comment (pirapira) [reply Clean/Gadgets/BLAKE3/ApplyRounds.lean]: These are gone.

File: Clean/Circuit/StructuralLemmas.lean (hunk 30 above)
Comment (pirapira) [reply Clean/Circuit/StructuralLemmas.lean]: done

File: Clean/Circuit/StructuralLemmas.lean (hunk 31 above)
Comment (pirapira) [reply Clean/Circuit/StructuralLemmas.lean]: inlined, much simpler

File: Clean/Circuit/StructuralLemmas.lean (hunk 32 above)
Comment (pirapira) [reply Clean/Circuit/StructuralLemmas.lean]: fixed.

File: Clean/Circuit/StructuralLemmas.lean (hunk 34 above)
Comment (pirapira) [reply Clean/Circuit/StructuralLemmas.lean]: fixed.

File: Clean/Gadgets/BLAKE3/ApplyRounds.lean (hunk 37 above)
Comment (pirapira) [reply Clean/Gadgets/BLAKE3/ApplyRounds.lean]: yes, that made eight cases uniform, and this led to simpler script.

File: Clean/Gadgets/BLAKE3/ApplyRounds.lean (hunk 38 above)
Comment (pirapira) [reply Clean/Gadgets/BLAKE3/ApplyRounds.lean]: now it's eight cases under one =>

File: Clean/Gadgets/BLAKE3/ApplyRounds.lean (hunk 39 above)
Comment (pirapira) [reply Clean/Gadgets/BLAKE3/ApplyRounds.lean]: This is gone.

File: Clean/Gadgets/BLAKE3/ApplyRounds.lean (hunk 40 above)
Comment (pirapira) [reply Clean/Gadgets/BLAKE3/ApplyRounds.lean]: done.

I like it when there's no trailing }
